US07700623B2
To an acetic acid (2.0 mL) suspension of 56 mg of 4-{3-[1-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}-2-fluoro-N′-hydroxybenzamidine was added 0.043 mL of acetic anhydride at room temperature, which was then stirred at the same temperature for one hour. To this mixture was added 5.0 mg of 5% palladium-carbon, which was then stirred under hydrogen atmosphere for 2 hours. Insoluble matter was filtered off, and the solvent was distilled off under reduced pressure. Thereto were added 6.0 mol/L hydrochloric acid and water, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (silica gel: ODS-1M120-S50 from YMC, eluent; water). The resultant residue was dissolved in 5.0 mL of water, to which a 5.0 mol/L sodium hydroxide aqueous solution was then added to adjust the pH to 12.2. The solution was stirred under cooling with ice for 20 minutes, and the precipitate was collected by filtration to provide 43 mg of 4-{3-[1-(3-{4-[amino(imino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}-2-fluorobenzamidine as white solid form.

reactant | 4-{3-[1-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}-2-fluoro-N′-hydroxybenzamidine | 56 mg | NC(C1=CC=C(OCCCN2CCC(CC2)CCCOC2=CC(=C(C(=NO)N)C=C2)F)C=C1)=NO | C25H34FN5O4
reactant | acetic anhydride | 0.043 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-carbon | 5.0 mg | [C].[Pd]
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 4-{3-[1-(3-{4-[amino(imino)methyl]phenoxy}propyl)-4-piperidinyl]propoxy}-2-fluorobenzamidine | 43 mg | NC(C1=CC=C(OCCCN2CCC(CC2)CCCOC2=CC(=C(C(=N)N)C=C2)F)C=C1)=N | C25H34FN5O2
